US08557872B2
(R)—N-[1-(3,5-difluoro-4-methanesulfonylamino-phenyl)-ethyl]-3-(2-propylamino-4-trifluoromethyl-phenyl)-propionamide
(R)—N-[1-(3,5-Difluoro-4-methanesulfonylamino-phenyl)-ethyl]-3-(2-propylamino-4-trifluoromethyl-phenyl)-acrylamide (12 mg) was reduced with Pd/C (15 mg) under hydrogen atmosphere to yield title compound (7 mg, 60%).

reactant | (R)—N-[1-(3,5-Difluoro-4-methanesulfonylamino-phenyl)-ethyl]-3-(2-propylamino-4-trifluoromethyl-phenyl)-acrylamide | 12 mg | FC=1C=C(C=C(C1NS(=O)(=O)C)F)[C@@H](C)NC(C=CC1=C(C=C(C=C1)C(F)(F)F)NCCC)=O | C22H24F5N3O3S
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | (R)—N-[1-(3,5-difluoro-4-methanesulfonylamino-phenyl)-ethyl]-3-(2-propylamino-4-trifluoromethyl-phenyl)-propionamide | 7 mg, 60% | FC=1C=C(C=C(C1NS(=O)(=O)C)F)[C@@H](C)NC(CCC1=C(C=C(C=C1)C(F)(F)F)NCCC)=O | C22H26F5N3O3S
